US07183276B2
A mixture of 4-phenyl-2, 5-dimethyloxazole (6.21 g), N-bromosuccinimide (5.34 g), azobisisobutyronitrile (0.25 g) and carbon tetrachloride (90 mL) was stirred with heating under reflux for 15 min. The reaction mixture was cooled, washed successively with water, saturated aqueous sodium hydrogen carbonate and water, dried over anhydrous magnesium sulfate and concentrated. The residue was recrystallized from ethanol to give 5-bromomethyl-4-phenyl-2-methyloxazole (6.73 g, yield 78%) as colorless crystals. melting point: 75–76° C.

reactant | 4-phenyl-2, 5-dimethyloxazole | 6.21 g | C1(=CC=CC=C1)C=1N=C(OC1C)C | C11H11NO
reactant | N-bromosuccinimide | 5.34 g | BrN1C(CCC1=O)=O | C4H4BrNO2
catalyst | azobisisobutyronitrile | 0.25 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 90 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-bromomethyl-4-phenyl-2-methyloxazole | 6.73 g, yield 78% | BrCC1=C(N=C(O1)C)C1=CC=CC=C1 | C11H10BrNO
